US09216999B2
(E)-3-[trans-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]acrylonitrile
The reactions in Synthetic Examplea 434 were carried out in substantially the same manners except that trans-4-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexanecarbaldehyde (30.0 mg, 0.111 mmol) obtained in Synthetic Examplea 78 was used instead of 4-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexanone to give the title compound as a colorless solid (3.60 mg, yield 7%).

reactant | trans-4-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexanecarbaldehyde | 0.111 mmol, 30.0 mg | C=1(N=NN2C=NC3=C(C21)C=CN3)[C@@H]3CC[C@H](CC3)C=O | C14H15N5O
reactant | 4-(7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexanone | C=1(N=NN2C=NC3=C(C21)C=CN3)C3CCC(CC3)=O | C13H13N5O
product | (E)-3-[trans-4-(7H-Pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidin-1-yl)cyclohexyl]acrylonitrile | 3.60 mg, yield 7% | C=1(N=NN2C=NC3=C(C21)C=CN3)[C@@H]3CC[C@H](CC3)/C=C/C#N | C16H16N6
